US05192766
1-[(E)-3-Phenyl-3-(4-pyridyl)acryloyl]-4-(3,4,5-trimethoxybenzoyl)piperazine
1 ml of a methylene chloride solution containing 0.330 g of diphenylphosphoryl azide and then 0.280 g of 1-(3,4,5-trimethoxybenzoyl)piperazine were added to 5 ml of a methylene chloride solution containing both 0.224 g of (E)-3-phenyl-3-(4-pyridyl)acrylic acid (prepared as described in Preparation 3) and 0.28 ml of triethylamine. The mixture was then stirred for 4 hours at room temperature, after which the reaction solution was diluted with 20 ml of methylene chloride. It was then washed with a 5% w/v aqueous solution of sodium bicarbonate, followed by a saturated aqueous solution of sodium chloride, and the organic phase was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the oily residue (0.686 g) was purified by silica gel flash chromatography. 0.419 g of the title compound was obtained as a white powder from the fractions eluted with mixtures of methylene chloride and methanol ranging from 100:2 to 100:3 by volume.

reactant | diphenylphosphoryl azide | 0.330 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1-(3,4,5-trimethoxybenzoyl)piperazine | 0.280 g | COC=1C=C(C(=O)N2CCNCC2)C=C(C1OC)OC | C14H20N2O4
reactant | (E)-3-phenyl-3-(4-pyridyl)acrylic acid | 0.224 g | C1(=CC=CC=C1)\C(=C/C(=O)O)\C1=CC=NC=C1 | C14H11NO2
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-[(E)-3-Phenyl-3-(4-pyridyl)acryloyl]-4-(3,4,5-trimethoxybenzoyl)piperazine | 0.419 g | C1(=CC=CC=C1)\C(=C/C(=O)N1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)\C1=CC=NC=C1 | C28H29N3O5
